US07053255B2
(1) Synthesis of 9-phenanthreneboronic acid
Under an atmosphere of argon, 9-bromophenanthrene (15 g, 58 mmole) was dissolved into anhydrous ether (150 ml) and the resultant solution was cooled at −35° C. in a dry ice/methanol bath. To the cooled solution, a hexane solution of n-butyllithium (1.50 mole/liter, 43 ml, 65 mmole) was added dropwise and the resultant mixture was stirred at −20° C. for 1 hour. After the reaction mixture was cooled at −67° C., a solution (30 ml) of triisopropoxyborane (37 ml, 0.16 mole, 2.8 eq) in anhydrous ether was added the resultant mixture was stirred at −65° C. for 1 hour and at the room temperature for 2 hours and left standing for one night. To the obtained reaction mixture, a 10% hydrochloric acid (150 ml) was added. After the resultant mixture was stirred at the room temperature for 1 hour, the formed organic layer was separated, washed with a saturated aqueous solution of sodium chloride (50 ml) and dried with anhydrous magnesium sulfate. The solid obtained after removing the solvent by distillation was washed with hexane and a white solid (10 g, 78%) was obtained.

reactant | 9-bromophenanthrene | 58 mmole, 15 g | BrC=1C2=CC=CC=C2C=2C=CC=CC2C1 | C14H9Br
reactant | n-butyllithium | 65 mmole, 1.50 mole/liter, 43 ml | C(CCC)[Li]
reactant | triisopropoxyborane | 0.16 mole, 30 ml, 2.8 eq | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | 150 ml | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | 9-phenanthreneboronic acid | 10 g, 78% | C1=CC=CC=2C3=CC=CC=C3C(=CC12)B(O)O | C14H11BO2
